US07326699B2
To a solution of 45 mg (0.11 mmol) of cis-3-[4-amino-5-(3benzyloxy-phenyl)pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid in 2 ml of N,N-dimethylformamide is added 36 mg (0.12 mmol) of O-(1,2-dihydro-2-oxo-1-pyridyl)-1,1,3,3-tetramethyluronium tetrafluoroborate and 39 μl (0.23 mmol) of diisopropylethylamine. 40 μl of a 5.6 M solution of dimethylamine are added thereto. After stirring the solution for 15 min at RT, working-up is effected by partitioning between water and ethyl acetate. The organic layer is dried over magnesium sulfate and concentrated in vacuo to provide cis-3-[4-amino-5-(3-benzyloxy-phenyl)pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid dimethylamide. Analytical HPLC: tR=6.81 min (Grad 2); ES-MS: m/eo=442.0.

reactant | cis-3-[4-amino-5-(3benzyloxy-phenyl)pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid | 0.11 mmol, 45 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)C(=O)O | C24H22N4O3
reactant | O-(1,2-dihydro-2-oxo-1-pyridyl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.12 mmol, 36 mg | F[B-](F)(F)F.O=C1N(C=CC=C1)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.23 mmol, 39 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | CNC | C2H7N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | cis-3-[4-amino-5-(3-benzyloxy-phenyl)pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutanecarboxylic acid dimethylamide | CN(C(=O)[C@@H]1C[C@@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2)C | C26H27N5O2
